US07425634B2
(2) 2,3,5-trimethyl-4-nitropyridine1-oxide
To 98% sulfuric acid (4.93 kg, 49.3 mol), 2,3,5-trimethylpyridine1-oxide (1.38 kg, 10.1 mol) was added. After 97% nitric acid (1.44 kg) was added dropwise thereto over 50 minutes, the mixture was heated at 85° C. for 4 hours. The reaction mixture was poured to a mixture of ammonium hydrogen carbonate (10.6 kg) and water (9.0 L). The mixture was extracted with ethyl acetate (3.0 L×3). The obtained organic layer was concentrated and dried under vacuum overnight to obtain a desired product (1.50 kg).

reactant | sulfuric acid | 49.3 mol, 4.93 kg | S(O)(O)(=O)=O | H2O4S
reactant | 2,3,5-trimethylpyridine1-oxide | 10.1 mol, 1.38 kg | CC1=[N+](C=C(C=C1C)C)[O-] | C8H11NO
reactant | nitric acid | 1.44 kg | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydrogen carbonate | 10.6 kg | C(O)([O-])=O.[NH4+]
solvent | water | 9.0 L | O | H2O
product | 2,3,5-trimethyl-4-nitropyridine1-oxide | 1.50 kg | CC1=[N+](C=C(C(=C1C)[N+](=O)[O-])C)[O-] | C8H10N2O3
